US06600037B1
4-[4-(1-Amino-1-methylethyl)-3-fluorophenyl]-5-chloro-N-[4-(2-hydroxyethyl)phenyl]pyrimidine-2-amine
The title compound was prepared from 4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)-3-fluorophenyl]-2,5-dichloropyrimidine (1.60 g, 4.0 mmol) and 4-aminophenethyl alcohol (826 mg, 6.0 mmol) following the method of Example 1.

reactant | 4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)-3-fluorophenyl]-2,5-dichloropyrimidine | 4.0 mmol, 1.60 g | C(C)(C)(C)OC(=O)NC(C)(C)C1=C(C=C(C=C1)C1=NC(=NC=C1Cl)Cl)F | C18H20Cl2FN3O2
reactant | 4-aminophenethyl alcohol | 6.0 mmol, 826 mg | NC1=CC=C(CCO)C=C1 | C8H11NO
product | 4-[4-(1-Amino-1-methylethyl)-3-fluorophenyl]-5-chloro-N-[4-(2-hydroxyethyl)phenyl]pyrimidine-2-amine | NC(C)(C)C1=C(C=C(C=C1)C1=NC(=NC=C1Cl)NC1=CC=C(C=C1)CCO)F | C21H22ClFN4O
